* /Users/p0/src/5Y-Mission/Modules/Fn.asc
* Generated by LTspice 26.0.2 for MacOS.
V+ V+ 0 12
V§SAW SAW 0 PULSE(0 5 0 0.00001 0.005 0 0.005)
V- V- 0 -12
CF LP N025 4n7
R10 P001 N029 6Meg8
X§U5/1 N032 N029 V+ V- N030 AD823 ;§pnba In+)In-)V+)V-)OUT
X§U4/1 N009 N001 V+ V- N002 AD823 ;§pnba In+)In-)V+)V-)OUT
R5 LPO N001 47K
R6 N001 0 47K
R29 LPO N002 470
R19 END N014 100K
V§FFA SW21 0 0
R21 N030 N024 10K
C9 N002 N001 47p
X§U5/2 0 N025 V+ V- LP AD823 ;§pnba In+)In-)V+)V-)OUT
X§U3/1 N011 N005 V+ V- N006 AD823 ;§pnba In+)In-)V+)V-)OUT
R14 ENDO N005 47K
R28 N005 0 47K
C10 N006 N005 47p
R40 N006 ENDO 470
X§U1/1 N015 N013 V+ 0 TRIG AD823 ;§pnba In+)In-)V+)V-)OUT
R41 N015 ENDO 10K
R48 ENDO 0 100K
A§U12/1 V+ 0 TRIG 0 LIM _ATK ATK 0 DFLOP Vhigh=11.95 Vlow=0.05 Trise=0.0000002 Tfall=0.0000002
A§U12/2 0 0 0 0 V+ _DEK DEK 0 DFLOP Vhigh=11.95 Vlow=0.05 Trise=0.0000002 Tfall=0.0000002
R17 N031 0 100K
R22 REF N031 100K
X§Z1 _REF 0 ADR5045 ;§pnba 1)2
R27 V+ _REF 10K
X§U2/2 N022 N019 V+ 0 LIM AD823 ;§pnba In+)In-)V+)V-)OUT
X§U2/1 N014 LP V+ 0 END AD823 ;§pnba In+)In-)V+)V-)OUT
R2 N009 LP 47K
R26 N009 0 47K
R35 N029 SIG 33K
X§U8/1 N023 SIG V+ V- SIG AD823 ;§pnba In+)In-)V+)V-)OUT
R34 SIGI 0 100K
X§U6/2 0 N038 V+ V- VRF AD823 ;§pnba In+)In-)V+)V-)OUT
R18 VRF N038 68K
C1 VRF N038 47p
R23 N038 SW11 100K
R30 N038 RISEP 68K
R54 LP N032 33K
X§U11 0 V+ HOLD NC_03 N028 DISCO V- ADG419 ;§pnba GND)VDD)IN)D)SA)SB)VSS
V§PULS PULS 0 PULSE(0 5 0.001 0 0 0.02 0.06 2)
R39 N037 REF 68K
V§FF FREQ 0 -3
X§U6/1 0 N037 V+ V- _VRF AD823 ;§pnba In+)In-)V+)V-)OUT
R4 _VRF N037 4K7
C2 _VRF N037 47p
R15 N037 SW13 100K
V§FRA SW11 0 0
R12 N038 FREQ 150K
R16 N029 ATK 68K
R52 DEK N032 68K
X§U7/2 0 N036 V+ V- VFF AD823 ;§pnba In+)In-)V+)V-)OUT
R7 VFF N036 4K7
C3 VFF N036 47p
R8 N036 SW21 100K
R9 N036 FALLP 68K
R11 N039 REF 68K
X§U7/1 0 N039 V+ V- _VFF AD823 ;§pnba In+)In-)V+)V-)OUT
R13 _VFF N039 68K
C4 _VFF N039 47p
R24 N039 SW23 100K
R31 N036 FREQ 150K
R53 END N011 100K
V§SINE SINE 0 SINE(2 4 240 0 0)
Q§U14/1 0 0 N024 0 BC847A
Q§U14/2 N025 _VRF N024 0 BC847A
Q§U15/1 0 0 N024 0 BC857A
Q§U15/2 N025 VFF N024 0 BC857A
C5 N030 P001 47p
X§U4/2 N010 N003 V+ 0 N004 AD823 ;§pnba In+)In-)V+)V-)OUT
R1 _LPO N003 47K
R36 N003 LP 47K
R37 _LPO N004 470
C6 N004 N003 47p
R38 N010 REF 47K
R42 N010 0 47K
R43 N014 ATK 100K
R44 N011 0 33K
X§U3/2 N012 N007 V+ V- N008 AD823 ;§pnba In+)In-)V+)V-)OUT
R45 LIMO N007 47K
R46 N007 0 47K
C7 N008 N007 47p
R47 N008 LIMO 470
R49 LIM N012 100K
R51 N012 0 33K
X§U1/2 LP N017 V+ 0 N018 AD823 ;§pnba In+)In-)V+)V-)OUT
R60 N017 0 4K7
D1 N018 N017 QTLP690C
X§U9/1 N016 RISEP V+ V- RISEP AD823 ;§pnba In+)In-)V+)V-)OUT
R55 N016 0 91K
X§U9/2 N021 SW12 V+ V- SW12 AD823 ;§pnba In+)In-)V+)V-)OUT
R62 N020 0 91K
R63 N021 N020 4K7
X§U10/1 N027 SW22 V+ V- SW22 AD823 ;§pnba In+)In-)V+)V-)OUT
R64 N026 0 91K
R65 N027 N026 4K7
X§U10/2 N035 FALLP V+ V- FALLP AD823 ;§pnba In+)In-)V+)V-)OUT
R66 N035 0 91K
R68 N016 REF 9K1
R69 N035 REF 9K1
R70 N026 FALLIN 9K1
R71 N020 RISEIN 9K1
X§U8/2 N034 N031 V+ 0 HOLD AD823 ;§pnba In+)In-)V+)V-)OUT
R72 N033 0 100K
R73 N034 N033 10K
R3 V+ V+ 680K
R20 N014 0 68K
R32 N013 0 100K
R33 REF N013 100K
R58 TRIG N015 680K
R59 HOLD N034 680K
R74 LIM N022 150K
R75 N022 LP 4K7
C11 V+ 0 10µ
C12 V- 0 10µ
R61 N036 _VFF 68K
R67 N037 VRF 68K
V1 REF 0 5
R77 0 N019 150K
R78 N019 REF 4K7
R79 V+ N014 6Meg8
R25 N023 SIGI 1K5
.model D D
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 47ms
* Library below included based on ModelFile attribute of instance X§U11 (C:\users\crossover\AppData\Local\LTspice\lib\sym\Switches\ADG419.asy)
.lib ADG419.sub
* Library below included based on ModelFile attribute of instance X§U5/2, X§U6/2, X§U7/2 (C:\users\crossover\AppData\Local\LTspice\lib\sym\OpAmps\AD823.asy), X§U5/1, X§U4/1, X§U3/1, X§U1/1, X§U2/2, X§U2/1, X§U8/1, X§U6/1, X§U7/1, X§U4/2, X§U3/2, X§U1/2, X§U9/1, X§U9/2, X§U10/1, X§U10/2, X§U8/2 (C:\users\crossover\AppData\Local\LTspice\lib\sym\OpAmps\AD823A.asy)
.lib ADI.lib
* Library below included based on ModelFile attribute of instance X§Z1 (C:\users\crossover\AppData\Local\LTspice\lib\sym\References\ADR5045.asy)
.lib ADR5045.sub
.backanno
.end
