* /Users/p0/src/5Y-Mission/Modules/Fn.asc
* Generated by LTspice 26.0.2 for MacOS.
V+ V+ 0 PULSE(0 12 0 0.00001 0 220)
V§SAW SAW 0 PULSE(0 5 0 0.005 0.005 0 0.01)
V- V- 0 PULSE(0 -12 0 0.00001 0 220)
CF LP N027 4n7
R10 P001 N028 6Meg8
X§U5/1 N031 N028 V+ V- N029 AD823 ;§pnba In+)In-)V+)V-)OUT
X§U4/1 N007 N001 V+ V- N002 AD823 ;§pnba In+)In-)V+)V-)OUT
R5 LPO N001 47K
R6 N001 0 47K
R29 LPO N002 470
R19 END N014 150K
V§FFA SW21 0 0
R21 N029 N024 10K
C9 N002 N001 47p
X§U5/2 0 N027 V+ V- LP AD823 ;§pnba In+)In-)V+)V-)OUT
X§U1/1 N015 N011 V+ 0 TRIG AD823 ;§pnba In+)In-)V+)V-)OUT
R41 N015 PULS 4K7
R48 PULS 0 100K
A§U12/1 END 0 TRIG 0 LIM _ATK ATK 0 DFLOP Vhigh=11.95 Vlow=0.05 Trise=0.0000002 Tfall=0.0000002
A§U12/2 0 0 0 0 V+ _DEK DEK 0 DFLOP Vhigh=11.95 Vlow=0.05 Trise=0.0000002 Tfall=0.0000002
R17 N030 0 150K
R22 V+ N030 680K
X§Z1 _REF 0 ADR5045 ;§pnba 1)2
R27 V+ _REF 22K
X§U2/2 N022 N019 V+ 0 LIM AD823 ;§pnba In+)In-)V+)V-)OUT
X§U2/1 N014 LP V+ 0 END AD823 ;§pnba In+)In-)V+)V-)OUT
R2 N007 LP 47K
R26 N007 0 47K
R35 N028 SIG 33K
X§U8/1 N023 SIG V+ V- SIG AD823 ;§pnba In+)In-)V+)V-)OUT
R34 0 0 100K
X§U6/2 0 N036 V+ V- VRF AD823 ;§pnba In+)In-)V+)V-)OUT
R18 VRF N036 68K
C1 VRF N036 47p
R23 N036 SW11 100K
R30 N036 RISEP 68K
R54 LP N031 33K
V§PULS PULS 0 PULSE(0 5 0 0.00001 0.00001 0.001 0.02 4)
R39 N035 REF 68K
V§FF FREQ 0 -4
X§U6/1 0 N035 V+ V- _VRF AD823 ;§pnba In+)In-)V+)V-)OUT
R4 _VRF N035 4K7
C2 _VRF N035 47p
R15 N035 SW13 100K
V§FRA SW11 0 0
R12 N036 FREQ 150K
R16 N028 ATK 68K
R52 DEK N031 68K
X§U7/2 0 N034 V+ V- VFF AD823 ;§pnba In+)In-)V+)V-)OUT
R7 VFF N034 4K7
C3 VFF N034 47p
R8 N034 SW21 100K
R9 N034 FALLP 68K
R11 N037 REF 68K
X§U7/1 0 N037 V+ V- _VFF AD823 ;§pnba In+)In-)V+)V-)OUT
R13 _VFF N037 68K
C4 _VFF N037 47p
R24 N037 SW23 100K
R31 N034 FREQ 150K
V§SINE SINE 0 SINE(2 4 240 0 0)
Q§U14/1 0 0 N024 0 BC847A
Q§U14/2 N027 _VRF N024 0 BC847A
Q§U15/1 0 0 N024 0 BC857A
Q§U15/2 N027 VFF N024 0 BC857A
C5 N029 P001 47p
X§U4/2 N008 N003 V+ V- N004 AD823 ;§pnba In+)In-)V+)V-)OUT
R1 _LPO N003 47K
R36 N003 LP 47K
R37 _LPO N004 470
C6 N004 N003 47p
R38 N008 REF 47K
R42 N008 0 47K
X§U3/2 N010 N006 V+ V- N006 AD823 ;§pnba In+)In-)V+)V-)OUT
R47 N006 LIMO 470
R49 LIM N010 100K
R51 N010 0 100K
X§U11/1 LPO N012 V+ 0 N013 AD823 ;§pnba In+)In-)V+)V-)OUT
R60 N012 0 4K7
D1 N013 N012 QTLP690C
X§U9/1 N016 RISEP V+ V- RISEP AD823 ;§pnba In+)In-)V+)V-)OUT
R55 N016 0 91K
X§U9/2 N021 SW12 V+ V- SW12 AD823 ;§pnba In+)In-)V+)V-)OUT
R62 N020 0 91K
R63 N021 N020 4K7
X§U10/1 N026 SW22 V+ V- SW22 AD823 ;§pnba In+)In-)V+)V-)OUT
R64 N025 0 91K
R65 N026 N025 4K7
X§U10/2 N033 FALLP V+ V- FALLP AD823 ;§pnba In+)In-)V+)V-)OUT
R66 N033 0 91K
R68 N016 REF 9K1
R69 N033 REF 9K1
R70 N025 FALLIN 9K1
R71 N020 RISEIN 9K1
X§U1/2 N032 N030 V+ 0 DATA AD823 ;§pnba In+)In-)V+)V-)OUT
R73 N032 END 100K
R20 N014 0 68K
R32 N011 0 150K
R33 V+ N011 680K
R58 TRIG N015 680K
R59 DATA N032 680K
R74 LIM N022 680K
R75 N022 LPB 4K7
R61 N034 _VFF 68K
R67 N035 VRF 68K
V5 REF 0 5
R77 0 N019 680K
R78 N019 REF 4K7
R79 V+ N014 6Meg8
R25 N023 0 4K7
X§U11/2 ENDO N017 V+ 0 N018 AD823 ;§pnba In+)In-)V+)V-)OUT
R50 N017 0 4K7
D2 N018 N017 QTLP690C
X§U8/2 LP LPB V+ V- LPB AD823 ;§pnba In+)In-)V+)V-)OUT
R56 N037 _FREQ 150K
R57 N035 _FREQ 150K
X§U1 N009 N005 V+ V- N005 AD823 ;§pnba In+)In-)V+)V-)OUT
R14 N005 ENDO 470
R28 END N009 100K
R40 N009 0 100K
R44 NC_03 0 680K
R45 NC_04 0 680K
R46 N032 ATK 100K
R3 N014 ATK 100K
.model D D
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 68ms
* Library below included based on ModelFile attribute of instance X§U5/2, X§U6/2, X§U7/2 (C:\users\crossover\AppData\Local\LTspice\lib\sym\OpAmps\AD823.asy), X§U5/1, X§U4/1, X§U1/1, X§U2/2, X§U2/1, X§U8/1, X§U6/1, X§U7/1, X§U4/2, X§U3/2, X§U11/1, X§U9/1, X§U9/2, X§U10/1, X§U10/2, X§U1/2, X§U11/2, X§U8/2, X§U1 (C:\users\crossover\AppData\Local\LTspice\lib\sym\OpAmps\AD823A.asy)
.lib ADI.lib
* Library below included based on ModelFile attribute of instance X§Z1 (C:\users\crossover\AppData\Local\LTspice\lib\sym\References\ADR5045.asy)
.lib ADR5045.sub
.backanno
.end
